US07851474B2
K. 3-{4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazin-1-yl}-6-(1,3-thiazol-2-yl) pyridazine (Compound 11)
In a sealed tube, dissolve 3-chloro-6-{4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-piperazin-1-yl}pyridazine (100 mg, 0.264 mmol), and 2-tributylstannylthiazole (197 mg, 0.528 mmol), Pd(PPh3)4 (30 mg, 0.262 mmol) in toluene (5 mL). Degas with N2 and seal the tube. Heat the mixture at 120° C. overnight. Cool and filter the solution through Celite. Wash the Celite bed with EtOAc (25 mL). Evaporate the solvent and dissolve the residue in 3N HCl (50 mL). Extract with CH2Cl2 (2×25 mL). Discard these organic extracts. Basify the aqueous phase with 10 N NaOH and extract with CH2Cl2 (2×40 mL). Combine these organic extracts and wash once with saturated aqueous KF solution (50 mL). Dry the organic extract and evaporate to yield the title compound. 1H NMR (CDCl3) δ 8.07 (d, 1H) 7.88 (d, 1H), 7.37 (d, 1H) 6.99 (d, 1H), 3.78 (t, 4H), 3.66-3.62 (m, 4H), 3.26 (s, 2H), 2.75-2.66 (m, 5H), 2.35-2.29 (m, 4H), 2.07-2.00 (m, 2H), 1.90-1.84 (m, 2H), 1.74-1.71 (m, 2H); LC-MS (M+1) 428.17.

reactant | 3-chloro-6-{4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-piperazin-1-yl}pyridazine | 0.264 mmol, 100 mg | ClC=1N=NC(=CC1)N1CCN(CC1)CC(=O)N1CCN(CC1)C1CCC1 | C18H27ClN6O
reactant | 2-tributylstannylthiazole | 0.528 mmol, 197 mg | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.262 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-{4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazin-1-yl}-6-(1,3-thiazol-2-yl) pyridazine | C1(CCC1)N1CCN(CC1)C(CN1CCN(CC1)C=1N=NC(=CC1)C=1SC=CN1)=O | C21H29N7OS
